US05542952
1st Step: Preparation of 2-Methylthio-4-Amino-5-Chloronitrobenzene
To a suspension of 18.9 g (0.27 mol) of sodium thiomethoxide in 200 ml of dimethoxyethane, with stirring at room temperature, are added portionwise 41.4 g (0.2 mol) of 2,5-dichloro-4-aminonitrobenzene, allowing the temperature to rise to 50°-55° C. and maintaining this temperature for 1/2 hour after the addition is complete. The reaction medium is poured onto 2 liters of ice-water. The crystallized precipitate is drained, re-slurried in water and vacuum-dried at 40° C. over phosphorus pentoxide.

reactant | sodium thiomethoxide | 0.27 mol, 18.9 g | C[S-].[Na+]
reactant | 2,5-dichloro-4-aminonitrobenzene | 0.2 mol, 41.4 g | ClC1=C(C=C(C(=C1)N)Cl)[N+](=O)[O-] | C6H4Cl2N2O2
solvent | dimethoxyethane | 200 ml | C(OC)COC | C4H10O2
solvent | water | O | H2O
product | 2-Methylthio-4-Amino-5-Chloronitrobenzene | CSC1=C(C=C(C(=C1)N)Cl)[N+](=O)[O-] | C7H7ClN2O2S
